US06716851B2
6-Methyl-2-(2-pyridinyl)-4-(3-trifloromethylbenzylamino)-pyrimidine
A mixture of 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine (82.3 mg, 0.4 mmol), 3-trifluoromethylbenzylamine (70.1 mg, 0.4 mmol), water (5 ml) and 2N HCl (300 μl) was refluxed for two days. The resulting solution was basified to pH˜11 with ammonia and extracted with ethyl acetate (10 ml×3). The combined ethyl acetate extracts were dried with sodium sulfate, and evaporated under vacuum. The residue was purified by column chromatography (hexane/ethyl acetate: 1/1) to give the title compound as a solid (34 mg, 25%). 1H NMR (CD3OD): 8.59 (d, J=4.2 Hz, 1H), 8.27 (m, 2H), 7.86 (m, 2 H), 7.43 (m, 2H), 6.18 (s, 2H), 4.76 (s, 2H), 2.26 (s, 3H).

reactant | 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine | 0.4 mmol, 82.3 mg | ClC1=NC(=NC(=C1)C)C1=NC=CC=C1 | C10H8ClN3
reactant | 3-trifluoromethylbenzylamine | 0.4 mmol, 70.1 mg | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
reactant | HCl | 2N, 300 μl | Cl | ClH
reactant | ammonia | N | H3N
solvent | water | 5 ml | O | H2O
product | 6-Methyl-2-(2-pyridinyl)-4-(3-trifloromethylbenzylamino)-pyrimidine | 34 mg, 25% | CC1=CC(=NC(=N1)C1=NC=CC=C1)NCC1=CC(=CC=C1)C(F)(F)F | C18H15F3N4
